US07538134B2
ethyl 1-formylcyclopropanecarboxylate
To a solution of Preparation 232 1-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester (3.00 g, 21.00 mmol) in dichloromethane (50 ml), at 0° C., was added saturated sodium hydrogen carbonate solution (50 ml), followed by TEMPO (659 mg, 4.00 mmol) and sodium bromide (400 mg, 4.00 mmol). After stirring for 5 min, sodium hypochlorite solution (10%, 14.00 mmol) was added slowly, followed by saturated sodium thiosulphate solution (50 ml). The two layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic phases were dried (MgSO4) and concentrated in vacuo to give the titled compound (3.00 g).

reactant | 1-hydroxymethyl-cyclopropanecarboxylic acid ethyl ester | 21.00 mmol, 3.00 g | C(C)OC(=O)C1(CC1)CO | C7H12O3
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | TEMPO | 4.00 mmol, 659 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | sodium bromide | 4.00 mmol, 400 mg | [Br-].[Na+]
reactant | sodium hypochlorite | 14.00 mmol | Cl[O-].[Na+]
reactant | sodium thiosulphate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 1-formylcyclopropanecarboxylate | 3.00 g | C(=O)C1(CC1)C(=O)OCC | C7H10O3
